US09416353B2
General methodology for reporter group conjugation to 2-[2-(6-chloro-hexyloxy)-ethoxy]-ethylamine
To one equivalent of the succinimidyl ester of the reporter group in DMF is added 3 equivalence of 2-[2-(6-chlorohexyloxy)-ethoxy]-ethyl-ammonium trifluoro-acetate stock solution, followed by diisopropylethylamine. The reaction is stirred from 8 to 16 hours at room temperature. Purification is accomplished by preparative scale HPLC or silica gel chromatography.

reactant | 2-[2-(6-chlorohexyloxy)-ethoxy]-ethyl-ammonium trifluoro-acetate | FC(C(=O)[O-])(F)F.ClCCCCCCOCCOCC[NH3+]
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[2-(6-chloro-hexyloxy)-ethoxy]-ethylamine | ClCCCCCCOCCOCCN | C10H22ClNO2
